US06372740B1
A mixture of ethyl 4-chloro-2-phenylpyrimidine-5-carboxylate (10 g), methylamine hydrochloride (2.8 g), triethylamine (8.5 g) and isopropanol (100 ml) is refluxed for six hours. The reaction mixture is concentrated under reduced pressure, and to the residue are added chloroform and water. The chloroform layer is separated, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform), and recrystallized from ethanol to give ethyl 4-methylamino-2-phenylpyrimidine-5-carboxylate (8 g).

reactant | ethyl 4-chloro-2-phenylpyrimidine-5-carboxylate | 10 g | ClC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C13H11ClN2O2
reactant | methylamine hydrochloride | 2.8 g | Cl.CN
reactant | triethylamine | 8.5 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | ethyl 4-methylamino-2-phenylpyrimidine-5-carboxylate | 8 g | CNC1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C14H15N3O2
